US05709911
First, 3.5 g of 1-[trans-4-(7-hydroxyheptyl)cyclohexyl]-2,3-difluorobenzene, 1.3 g of triethylamine, and 45 ml of dry tetrahydrofuran were placed in a 100 ml flask. Then, 1.1 g of acryloyl chloride was added dropwise to the reaction mixture under ice water cooling. The reaction mixture was allowed to warm to room temperature and stirred for 1 hour. Ether was added to the reaction mixture. An ether layer was washed with water and dried over anhydrous sodium sulfate. A solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: benzene/hexane=3/7 to 4/6) and recrystallized from hexane to obtain 2.23 g of 1-[trans-4-(7-propenoyloxyheptyl)cyclohexyl]-2,3-difluorobenzene (Y: 54%). The compound thus obtained had a purity of 99.6% by GC, 99.5% by HPLC, and of 1 spot by TLC. Furthermore, the compound had an m.p. of 34.0° C. to 35.3° C.

reactant | 1-[trans-4-(7-hydroxyheptyl)cyclohexyl]-2,3-difluorobenzene | 3.5 g | OCCCCCCC[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C19H28F2O
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
reactant | acryloyl chloride | 1.1 g | C(C=C)(=O)Cl | C3H3ClO
solvent | Ether | CCOCC | C4H10O
product | 1-[trans-4-(7-propenoyloxyheptyl)cyclohexyl]-2,3-difluorobenzene | 2.23 g, 54% | C(C=C)(=O)OCCCCCCC[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C22H30F2O2
